US04215048
Methanesulfonyl chloride (200 mg, 2.6 mM) is added slowly to a mixture of (1RS,4SR,5RS)-4-(3-hydroxypropyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane (333 mg, 1.6 mM) in methylene chloride (30 ml) and triethylamine (2 ml) at 0° C. and stirred for five minutes. The resulting mixture is treated with methanol (1 ml) and most of the solvent is removed in vacuo. The residue is filtered through a silica gel (20 g) column and washed with ether-petroleum ether (1:1, 300 ml). The solvent is removed in vacuo to give (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane (408 mg, 90%) as a colorless oil.

reactant | Methanesulfonyl chloride | 2.6 mM, 200 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | (1RS,4SR,5RS)-4-(3-hydroxypropyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane | 1.6 mM, 333 mg | OCCCC1(OCC2(CCC1O2)C=C)C | C12H20O3
reactant | methanol | 1 ml | CO | CH4O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-1-vinyl-3,8-dioxabicyclo[3.2.1]octane | 408 mg, 90% | CS(=O)(=O)OCCCC1(OCC2(CCC1O2)C=C)C | C13H22O5S
